US08207168B2
To 7.04 mL of 21% sodium ethoxide in ethanol (18.8 mmol) in 60 mL ethanol at 0° C. was added 4.70 g of 1-(4-methoxyphenyl)butane-1,3-dione (17.1 mmol) in 60 mL ethanol dropwise over 24 minutes. After 30 min a solution of 2.59 g of ethyl chloro-(hydroximino)acetate (17.1 mmol) in 30 mL ethanol was added dropwise over 6 minutes. The reaction was warmed to room temperature slowly. When TLC indicated the reaction was complete, the reaction was concentrated in vacuo. Water and saturated NaHCO3 was added and the product extracted with ethyl acetate. The ethyl acetate extracts were dried with Na2SO4, filtered, and concentrated in vacuo. The crude material was purified via silica gel chromatography eluting with 8:1 hexane:ethyl acetate to give 4-(4-methoxybenzoyl)-5-methylisoxazole-3-carboxylic acid ethyl ester which was dried overnight under high vacuum to give 3.74 g (71.8%).

reactant | sodium ethoxide | 7.04 mL | [O-]CC.[Na+]
reactant | 1-(4-methoxyphenyl)butane-1,3-dione | 17.1 mmol, 4.70 g | COC1=CC=C(C=C1)C(CC(C)=O)=O | C11H12O3
reactant | ethyl chloro-(hydroximino)acetate | 17.1 mmol, 2.59 g | ClC(C(=O)OCC)=NO | C4H6ClNO3
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 18.8 mmol | C(C)O | C2H6O
product | 4-(4-methoxybenzoyl)-5-methylisoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC(=C1C(C1=CC=C(C=C1)OC)=O)C | C15H15NO5
